US04180394
A solution of ethyl N-trifluoroacetyl-N-(dichlorophosphonomethyl)glycinate (8.25 g, 0.025 mole) in ether (150 ml.) was cooled to 0° C. and a solution of phenol (2.35 g, 0.025 mole) and triethylamine (3.49 ml, 0.025 mole) in 50 ml. of ether was added to it. The resulting mixture was stirred for three hours, then filtered. The filtrate was cooled to 0° C. and thiophenol (2.5 ml, 0.025 mole) and triethylamine (3.49 ml, 0.025 mole) in 50 ml. of ether was added. The resulting solution was stirred overnight at 25° C., filtered and concentrated in vacuo. The residue was chromatographed on silica eluting first with methylene chloride, then with ether to yield ethyl N-trifluoroacetyl-N-(phenoxy(phenylthio)phosphonomethyl)glycinate (7.97 g) as a white solid, m.p. 80°-82° C.

reactant | ethyl N-trifluoroacetyl-N-(dichlorophosphonomethyl)glycinate | 0.025 mole, 8.25 g | FC(C(=O)N(CC(=O)OCC)CP(=O)(OCl)OCl)(F)F | C7H9Cl2F3NO6P
reactant | phenol | 0.025 mole, 2.35 g | C1(=CC=CC=C1)O | C6H6O
reactant | triethylamine | 0.025 mole, 3.49 ml | C(C)N(CC)CC | C6H15N
reactant | thiophenol | 0.025 mole, 2.5 ml | C1(=CC=CC=C1)S | C6H6S
reactant | triethylamine | 0.025 mole, 3.49 ml | C(C)N(CC)CC | C6H15N
solvent | ether | 150 ml | CCOCC | C4H10O
product | ethyl N-trifluoroacetyl-N-(phenoxy(phenylthio)phosphonomethyl)glycinate | 7.97 g | FC(C(=O)N(CC(=O)OCC)C(P(=O)(OSC1=CC=CC=C1)O)OC1=CC=CC=C1)(F)F | C19H19F3NO7PS
